US04436748
To a solution of 6,7-dichloro-5-hydroxybenzo[b]thiophene in 28 ml of dried tetrahydrofuran at -28° is added 21 ml of 2.5 M n-butyllithium, maintaining the temperature below -18°. Following the addition, the carbon tetrachloride-dry ice bath is replaced with an ice-water bath and the mixture is stirred at 0°-5° for about 4 hrs. A solution of 3.3 ml of acetone in 10 ml tetrahydrofuran is added dropwise. After stirring for one hr, the solution is poured onto 100 ml of water and acidified to pH=5-6 with glacial acetic acid. The acidic solution is extracted with ethyl acetate, washed, dried over anhydrous magnesium sulfate, filtered and the solvent is removed to give 3.84 g of 6,7-dichloro-5-hydroxy-α,α-dimethylbenzo[b]thiophene-2-methanol, mp 171°-173°.

reactant | 6,7-dichloro-5-hydroxybenzo[b]thiophene | ClC=1C(=CC2=C(SC=C2)C1Cl)O | C8H4Cl2OS
reactant | n-butyllithium | 2.5 M, 21 ml | C(CCC)[Li]
reactant | carbon tetrachloride dry ice | C(Cl)(Cl)(Cl)Cl.C(=O)=O
reactant | acetone | 3.3 ml | CC(=O)C | C3H6O
solvent | tetrahydrofuran | 28 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 100 ml | O | H2O
product | 6,7-dichloro-5-hydroxy-α,α-dimethylbenzo[b]thiophene-2-methanol | 3.84 g | ClC=1C(=CC2=C(SC(=C2)C(O)(C)C)C1Cl)O | C11H10Cl2O2S
